US05354913
A solution of methyl (R)-7-(3-acetyl-6-methoxy-2,4,5-trimethylphenyl)-7-(4-fluorophenyl)heptanoate (2.0 g, 4.7 mmol) in dichloromethane (10 ml) was added dropwise to boron tribromide (2.0 ml, 5.3 g, 21.0 mmol) in dichloromethane (30 mi) at -78° C. The temperature of the reaction solution was elevated gradually to room temperature, and the reaction solution was stirred for 6 hours at the same temperature. To the reaction solution was was added ice-water at 0° C., and the mixture was extracted with ethyl acetate. The organic layer was washed with water, a saturated aqueous solution of sodium chloride in the order mentioned, and dried over magnesium sulfate. The solvent was distilled off under reduced pressure and the residue was subjected to a silica gel column chromatography to give (R)-7-(3-acetyl-6-hydroxy-2,4,5-trimethylphenyl)-7-(4-fluorophenyl)heptanoic acid (1.56 g). Physico-chemical properties and spectral data are shown in [Table 5].

reactant | methyl (R)-7-(3-acetyl-6-methoxy-2,4,5-trimethylphenyl)-7-(4-fluorophenyl)heptanoate | 4.7 mmol, 2.0 g | C(C)(=O)C=1C(=C(C(=C(C1C)C)OC)[C@H](CCCCCC(=O)OC)C1=CC=C(C=C1)F)C | C26H33FO4
reactant | boron tribromide | 21.0 mmol, 2.0 ml, 5.3 g | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (R)-7-(3-acetyl-6-hydroxy-2,4,5-trimethylphenyl)-7-(4-fluorophenyl)heptanoic acid | 1.56 g | C(C)(=O)C=1C(=C(C(=C(C1C)C)O)[C@H](CCCCCC(=O)O)C1=CC=C(C=C1)F)C | C24H29FO4
